US08669234B2
1-Benzyl-imidazolidine-4-carboxylic acid methyl ester:
3-Benzylamino-2-tert-butoxycarbonylamino-propionic acid methyl ester (4.01 g, 13.02 mmol) was dissolved in dichloromethane (20 mL) and HCl (4M Dioxane, 40 mL) was added. The resultant suspension was stirred at room temperature for 30 minutes, after which all volatiles were removed in vacuo. The crude material was mixed with para-formaldehyde (390 mg, 13.02 mmol), magnesium sulfate (2.6 g), potassium carbonate (2.6 g) and suspended in chloroform (40 mL) Triethylamine (5.07 mL) was added and the reaction was stirred at room temperature for 48 hours. The suspension was filtered and the volatiles were removed in vacuo. The crude material 1-Benzyl-imidazolidine-4-carboxylic acid methyl ester (3.5 g) was used in the next step without further analysis.

reactant | 3-Benzylamino-2-tert-butoxycarbonylamino-propionic acid methyl ester | 13.02 mmol, 4.01 g | COC(C(CNCC1=CC=CC=C1)NC(=O)OC(C)(C)C)=O | C16H24N2O4
reactant | HCl | 4M, 40 mL | Cl | ClH
reactant | para-formaldehyde | 13.02 mmol, 390 mg | C=O | CH2O
reactant | magnesium sulfate | 2.6 g | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | potassium carbonate | 2.6 g | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | chloroform | 40 mL | C(Cl)(Cl)Cl | CHCl3
product | 1-Benzyl-imidazolidine-4-carboxylic acid methyl ester | COC(=O)C1NCN(C1)CC1=CC=CC=C1 | C12H16N2O2
